US07601714B2
Triphenylphosphine (0.81 g, 3.1 mmol) was added to a solution of the above 3-azidomethyl-4-chloro-pyridine (0.47 g, 3.1 mmol) in anhydrous THF (10 mL) at 0° C. The reaction mixture was warmed to room temperature and stirred for 18 h. The reaction mixture was then diluted with NH4OH (3 mL) and stirred for another 3 h. 3M NaOH was then added to the reaction mixture and stirred for 1 h. The mixture was acidified to pH 2 by adding 4M HCl solution. The mixture was diluted with ether and the layers were separated. The aqueous layer was extracted with ether and then basified with 2M NaOH solution. The aqueous solution was extracted with CH2Cl2 (×3). The combined organic phase was dried over MgSO4 and concentrated in vacuo to afford a pale yellow oily solid. This product was diluted with ether and filtered. The filtrated was concentrated in vacuo to afford a pale yellow oil. The crude product was purified by silica gel column chromatography using 20:1 CH2Cl2:MeOH as an eluent to afford 0.21 g (53%) of 3-aminomethyl-4-chloropyridine as a colorless oil.

reactant | Triphenylphosphine | 3.1 mmol, 0.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-azidomethyl-4-chloro-pyridine | 3.1 mmol, 0.47 g | N(=[N+]=[N-])CC=1C=NC=CC1Cl | C6H5ClN4
reactant | NaOH | 3M | [OH-].[Na+]
reactant | HCl | 4M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NH4OH | 3 mL | [NH4+].[OH-]
solvent | ether | CCOCC | C4H10O
product | 3-aminomethyl-4-chloropyridine | 0.21 g, 53% | NCC=1C=NC=CC1Cl | C6H7ClN2
